US09216980B2
Step 1: 6′-Chloro-2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-[3,4′]bipyridinyl-3′-ylamine
A degassed mixture of 5-bromo-6′-chloro-2-fluoro-[3,4′]bipyridinyl-3′-ylamine (2.0 g, 6.60 mmol), bis(pinacolato)diborane (1.84 g, 7.30 mmol), 1,1′-[bis(diphenylphosphino) ferrocene]dichloropalladium(II) (270 mg, 0.33 mmol) and potassium acetate (1.94 g, 19.8 mmol) in dioxane (20 mL) and DMSO (2 mL) was heated under microwave irradiation at 150° C. for 30 minutes. The cooled reaction mixture was diluted with ethyl acetate (50 mL) the solid removed by filtration and the filtrate was washed with water (75 mL). The organic phase was dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 40 g column, ISCO, 0-50% ethyl acetate in DCM) to afford the title compound as a white solid (737 mg, 32%). NMR (CDCl3, 300 MHz): 8.67 (dd, J=2.0, 0.8 Hz, 1H), 8.18 (dd, J=10.0, 2.0 Hz, 1H), 7.97 (d, J=0.5 Hz, 1H), 7.10 (s, 1H), 1.36 (s, 12H).

reactant | 5-bromo-6′-chloro-2-fluoro-[3,4′]bipyridinyl-3′-ylamine | 6.60 mmol, 2.0 g | BrC=1C=C(C(=NC1)F)C1=C(C=NC(=C1)Cl)N | C10H6BrClFN3
reactant | bis(pinacolato)diborane | 7.30 mmol, 1.84 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 19.8 mmol, 1.94 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6′-Chloro-2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-[3,4′]bipyridinyl-3′-ylamine | 737 mg, 32% | ClC1=CC(=C(C=N1)N)C=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)F | C16H18BClFN3O2
